US06521716B1
To isophoronediamine (139.24 g, 0.819 mol) in xylene (525 ml) at 120° C. was added with stirring 2,2,6-trimethyl-1,3-dioxen-4-one (232.51 g, 1.637 mol) in xylene (525 ml) over 10 minutes, during which the temperature decreased to 103° C. Vigorous effervescence and distillation of acetone (through a Vigreux column) immediately commenced. Pot temperature was increased to 120° C. over 15 minutes, and to 139° C. over a further 30 minutes, with collection of acetone distillate. After cooling to 58° C., supernatant solution was separated from deposited gum, which was dissolved in dichloromethane. Removal of solvent from combined solutions and drying (91° C./100 Pa) gave 1-acetoacetamido-3-acetoacetamidomethyl-3,5,5-trimethylcyclohexane (270.21 g, 98%), (AAMTCH), which was crushed to a light yellow powder, mp 144-147° C. (mixture of E and Z isomers), and identified by 1H-NMR, 13C-NMR, FT-IR and Raman spectra.

reactant | isophoronediamine | 0.819 mol, 139.24 g | CC1(CC(CC(C1)(C)CN)N)C | C10H22N2
reactant | 2,2,6-trimethyl-1,3-dioxen-4-one | 1.637 mol, 232.51 g | CC1=CC(=O)OC(O1)(C)C | C7H10O3
solvent | xylene | 525 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 525 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-acetoacetamido-3-acetoacetamidomethyl-3,5,5-trimethylcyclohexane | 270.21 g, 98% | C(CC(=O)C)(=O)NC1CC(CC(C1)(C)C)(C)CNC(CC(=O)C)=O | C18H30N2O4
